US07728016B2
1-(2,4-Dihydroxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester
1-(2,4-Dihydroxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid (0.15 g, 0.48 mmol) was refluxed in EtOH (20 mL) in the presence of 5 drops of concentrated H2SO4 for 3 hours. After evaporation of the solvent, EtOAc (20 mL) was added. The organic layer was then washed with sat. NaHCO3 (2×10 mL) and brine (20 mL), dried with NaSO4 and filtered. After evaporation of the solvent, light brown semi-solids (93 mg, 57%) were obtained and purified by prep. TLC (Rf=0.73, EtOAc).

reactant | 1-(2,4-Dihydroxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid | 0.48 mmol, 0.15 g | OC1=C(C=CC(=C1)O)N1N=NC(=C1C1=CC=C(C=C1)F)C(=O)O | C15H10FN3O4
reactant | EtOH | 20 mL | CCO | C2H6O
catalyst | H2SO4 | 5 drops | OS(=O)(=O)O | H2O4S
product | 1-(2,4-Dihydroxy-phenyl)-5-(4-fluoro-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=NN(C1C1=CC=C(C=C1)F)C1=C(C=C(C=C1)O)O | C17H14FN3O4
